US09108938B2
2,6-dichloro-N-(2-(2-methylpyrimidin-5-yl)-2-(1,4-oxazepan-4-yl)ethyl)benzamide
From 2,6-dichlorobenzoic acid and 2-(2-methylpyrimidin-5-yl)-2-(1,4-oxazepan-4-yl)ethanamine.

reactant | 2,6-dichlorobenzoic acid | ClC1=C(C(=O)O)C(=CC=C1)Cl | C7H4Cl2O2
reactant | 2-(2-methylpyrimidin-5-yl)-2-(1,4-oxazepan-4-yl)ethanamine | CC1=NC=C(C=N1)C(CN)N1CCOCCC1 | C12H20N4O
product | 2,6-dichloro-N-(2-(2-methylpyrimidin-5-yl)-2-(1,4-oxazepan-4-yl)ethyl)benzamide | ClC1=C(C(=O)NCC(N2CCOCCC2)C=2C=NC(=NC2)C)C(=CC=C1)Cl | C19H22Cl2N4O2
